US04698365
Preparation of 2-fluoro-4-(2-chloro-4-[trifluoromethyl]phenoxy)aniline
A solution of 2-fluoro-4-hydroxyaniline (7.1 g) and potassium hydroxide (3.7 g, 85% pure) in dimethylsulphoxide (25 ml) was heated to 80° C. and treated with a solution of 1,2-dichloro-4-(trifluoromethyl)benzene (10.9 g) in dimethylsulphoxide (10 ml). The mixture was stirred at 90°-95° C. for 20 hours, after which time it was diluted with a mixture of water and dichloromethane. The organic phase was dried over sodium sulphate and evaporated down to give 3.6 g of the crude desired product as a brown oil.

reactant | 2-fluoro-4-hydroxyaniline | 7.1 g | FC1=C(N)C=CC(=C1)O | C6H6FNO
reactant | potassium hydroxide | 3.7 g | [OH-].[K+]
reactant | 1,2-dichloro-4-(trifluoromethyl)benzene | 10.9 g | ClC1=C(C=C(C=C1)C(F)(F)F)Cl | C7H3Cl2F3
solvent | dimethylsulphoxide | 25 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-fluoro-4-(2-chloro-4-[trifluoromethyl]phenoxy)aniline | 3.6 g | FC1=C(N)C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl | C13H8ClF4NO
